US06348463B1
2-Chloro-3-phenoxyquinoxaline
A solution of phenol (564 mg, 6 mmol) in THF (5 ml) was added to a suspension of sodium hydride (60% in mineral oil, 240 mg, 6 mmol) in THF (10 ml). After 10 min 2,3-dichloroquinoxaline (995 mg, 5 mmol) was added. The mixture was stirred for 3 days. The solvent was removed in vacuo, the residue was dissolved in EtOAc, washed with NaOH (1M), dried (Na2SO4) and evaporated in vacuo to give a yellow solid. Recrystallisation from diisopropylether gave the title compound as off-white needles: δH (DMSO d6) 8.01-7.98 (1H, m), 7.77-7.67 (3H, m), 7.53-7.48 (2H, m), 7.37-7.30 (3H, m); m/z (EI+, 70V) 257.

reactant | phenol | 6 mmol, 564 mg | C1(=CC=CC=C1)O | C6H6O
reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | 2,3-dichloroquinoxaline | 5 mmol, 995 mg | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-Chloro-3-phenoxyquinoxaline | ClC1=NC2=CC=CC=C2N=C1OC1=CC=CC=C1 | C14H9ClN2O
